US05466809
Crude benzyl 2,4-di-O-acetyl-3,6-dideoxydiethylphosphonoacetamido-alpha-D-mannopyranoside, 21, ethanol (10 mL), 2 88% formic acid and 0.1 g Pd black were heated at reflux overnight under argon with stirring. The reaction mixture was filtered and evaporated to dryness, and the residue was chromatographed on SiO2 (40 g; dichloromethane-methanol 95:5) to afford 0.57 g 2,4-di-O-acetyl-3,6-dideoxydiethylphosphonoacetamido-D-mannopyranose, as a yellow oil.

reactant | benzyl 2,4-di-O-acetyl-3,6-dideoxydiethylphosphonoacetamido-alpha-D-mannopyranoside | C(C)(=O)O[C@@H]1[C@@](OCC2=CC=CC=C2)(O[C@@H]([C@H](C1)OC(C)=O)C)NC(CP(=O)(OCC)OCC)=O | C23H34NO10P
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd | 0.1 g | [Pd] | Pd
solvent | formic acid | C(=O)O | CH2O2
product | 2,4-di-O-acetyl-3,6-dideoxydiethylphosphonoacetamido-D-mannopyranose | 0.57 g | C(C)(=O)O[C@@H]1C(O)(O[C@@H]([C@H](C1)OC(C)=O)C)NC(CP(=O)(OCC)OCC)=O | C16H28NO10P
